Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2](=[O:3])[C:12](/[C:10](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])[H:11])([H:13])[H:14],-2.30178430569
[H:1][O:2][C:3][C:4]([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:5]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.51820024031
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[H:8],1.27964522588
[H:1][C:2].[O:3]=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-2.94177518741
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.93583180127
[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[C:3]([H:4])[O:5][O:6]>>[C:1]/[C:2](=[C:3](\[H:4])[O:5][O:6])[C:7]([H:8])([H:9])[H:10],-4.22055996367
[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10],-1.34367996218
[O:1][C:2](=[O:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1]=[C:2]=[O:3],-1.1330158495799998
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11](=[O:12])[H:13],4.04061638197
[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.93114014306
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2](=[C:3][H:4])[C:15]([H:16])([H:17])[H:18],4.361967766569999
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:6].[O:1]=[C:2]([O:3][C:4]([H:5])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.33159108427
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],1.5192762387099998
[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])#[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2],3.1568376729
[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:11][H:12]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-1.73170138245
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][H:9]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7].[O:8][H:9],6.00157707917
[H:4].[O:1]=[C:2]([H:3])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.0594352561799998
[H:1][C:2]([H:3])=[C:4]1[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:11]([H:10])([H:12])[H:13])[C:7]([H:8])[H:9],2.4429841856400003
[H:1][C:2]1[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]1[H:12]>>[H:1][C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10])[C:11][H:12],4.86815757049
[C:1]=[C:2]1[O:3][C@@:4]1([H:5])[C:6]([O:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([O:7])([H:8])[H:9],0.93865228373
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10].[H:11]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-3.50791751621
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]#[C:8][H:9],2.4841033333
[H:1][O:2][C:3][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-4.75800637222
[C:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])=[C:9][H:10].[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.12072715251
[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],2.85407019429
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-3.4928947924800005
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.0383646752
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-2.26893614153
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-4.07427021036
